US07700628B2
A. 2-[4-Methoxy-2-[2-(thiophen-2-ylcarbonylamino)ethoxy]benzoylamino]-N-(4-methoxyphenyl)-4-nitrobenzamide
A mixture of 2-[2-(2-aminoethoxy)-4-methoxybenzoylamino]-N-(4-methoxy-phenyl)-4-nitrobenzamide (227 mg, 0.47 mmol), P-EPC resin (2.09 g, 1.78 mmol), and thiophene-2-carboxylic acid (144 mg, 1.12 mmol) in methylene chloride (15 mL) was shaken in a screw top vial overnight. The reaction was filtered and the solids were washed with 10% methanol in chloroform. The filtrate was concentrated to yield the desired product (265 mg, 0.45 mmol, 95%) as a greenish solid.

reactant | 2-[2-(2-aminoethoxy)-4-methoxybenzoylamino]-N-(4-methoxy-phenyl)-4-nitrobenzamide | 0.47 mmol, 227 mg | NCCOC1=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)[N+](=O)[O-])C=CC(=C1)OC | C24H24N4O7
reactant | thiophene-2-carboxylic acid | 1.12 mmol, 144 mg | S1C(=CC=C1)C(=O)O | C5H4O2S
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-Methoxy-2-[2-(thiophen-2-ylcarbonylamino)ethoxy]benzoylamino]-N-(4-methoxyphenyl)-4-nitrobenzamide | 0.45 mmol, 265 mg, 95% | COC1=CC(=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)[N+](=O)[O-])C=C1)OCCNC(=O)C=1SC=CC1 | C29H26N4O8S
